Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / avocado
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
___ 07:50AM BLOOD WBC-5.5 RBC-4.39 Hgb-13.5 Hct-40.9 MCV-93 
MCH-30.8 MCHC-33.0 RDW-12.4 RDWSD-42.6 Plt ___
___ 07:50AM BLOOD Glucose-95 UreaN-9 Creat-0.7 Na-142 K-4.2 
Cl-104 HCO3-24 AnGap-14
___ 07:50AM BLOOD ALT-18 AST-17 AlkPhos-165* TotBili-1.5
___ 07:50AM BLOOD Calcium-9.0 Phos-4.1 Mg-2.0
___ 08:28PM BLOOD CRP-1.0

CTA Chest: 
IMPRESSION:
 
 
1. Focal segment of aortic wall thickening involving the left 
posterolateral
descending aorta concerning for aortitis of infectious or 
inflammatory
etiologies.
2. No pulmonary embolism.
3. Bibasilar atelectasis with lower lobe predominant bronchial 
wall thickening
and bronchovascular crowding.
4. Two solid pulmonary nodules measuring up to 0.4 cm.
 
RECOMMENDATION(S):  For incidentally detected multiple solid 
pulmonary nodules
smaller than 6mm, no CT follow-up is recommended in a low-risk 
patient, and an
optional CT follow-up in 12 months is recommended in a high-risk 
patient.

EKG ___: NSR w/o acute ST changes

 
Brief Hospital Course:
___ female with past medical history of hyperlipidemia
and hypothyroidism presents emergency department for 2 to 3 days
of exertional chest and back pain.

#Exertional Chest Pain:
#?Aortitis:
The patient's EKG did not appear to be concerning for ST changes 
in the ED. Trops x2 negative. Reportedly some ST depression was 
found on EKG at PCP's office which prompted referral to ED--this 
is based on ED note. CTA done to eval for PE. Findings showed 
"Long segment aortic wall thickening involving the right 
posterolateral descending aorta concerning for aortitis of 
infectious or inflammatory etiologies." Pt was started on 
vanc/rocephin. Per vascular surgery who reviewed the imaging in 
ED, they felt the area of ___ inflammation was small and 
there was no evidence of acute aortic syndrome, and therefore
no need for any surgical interventions. Causes of aortitis is
broad and includes a number of inflammatory and infectious
etologies. CRP was 1 making aortitis a lower likelihood. ESR, 
___, and Trep Ab still pending. ___ medicine was consulted on 
___. They felt it was an incidental finding of mild thickening 
of descending aorta w/ low suspicion for aortitis. She was 
cleared for discharge from their standpoint. Pt did not have any 
further CP after admission. She was able to ambulate without CP 
or back pain. 
Given pt's lack of EKG findings, resolution of symptoms, low 
likelihood of aortitis, and stress test in ___ neg for 
ischemia, she was discharged. 

Transitional Issues: 
(  )___ medicine to arrange for her to see Dr.
___ the ___ Center in ___, can consider further imaging
with PET at that time.
(  )f/u with her PCP discussed with patient, can do further 
outpt cardiac w/u if needed. 
(  )CT scan here showed two solid pulmonary nodules measuring up 
to 0.4 cm so she will need outpatient CT chest in 12 months for 
follow up

Discharge PE: 
GENERAL: Alert female, lying in bed and in NAD
EYES: Anicteric, PERRL
ENT: Ears and nose unremarkable. MMM
CV: RRR. S1, S2. No mrg
RESP: Unlabored breathing. CTA b/l 
GI: +BS. Soft, NTND.
MSK: WWP. No ___ edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric. Speech fluent, moves all
limbs.
PSYCH: pleasant, appropriate affect
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO DAILY 
2. Levothyroxine Sodium 150 mcg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO DAILY  
2.  Levothyroxine Sodium 150 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chest pain, back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

You were admitted for having chest pain and back pain. Your labs 
and imaging did not seem to indicate you were having a heart 
attack or other cardiac ischemia. There was concern on CT that 
you may have inflammation of your aorta--aortitis. You were 
started on antibiotics. Vascular team saw you here and felt you 
had low suspicion for aortitis--they will arrange for your 
follow up in their clinic. You did not have any further chest 
pain while here. 
 
Followup Instructions:
___